
*403CNQ080 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 80V 400A 3us pkg:TO-244 1,2,3
.SUBCKT 403CNQ080 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=568N RS=105U N=1.7 BV=80 IBV=0.14
+ CJO=16.4N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 403CNQ080

* Origin: Mcediode.lib
